US03996376
2,2-Bis(Chlorodifluoromethyl)-1,3-Dioxolan-4-ylmethyl Nitrate
34 ml nitric acid (96%) is added slowly to 43 ml chilled acetic anhydride. Then, 14.8 grams of 2,2-bis(chlorodifluoromethyl)-4-hydroxymethyl-1,3-dioxolane, is added dropwise with magnetic stirring over a 30 minute period to the chilled mixed acid (0° to -10° C.). An additional 25 minutes of stirring is allowed. The reaction mixture is drowned in 250 ml of cold tap water forming a small lower liquid layer. Ether extraction (3 × 75 ml) removed the lower layer and all of the yellow coloration. The ether solution is washed several times with water and then dried over Na2SO4, filtered and evaporated on a rotary evaporator. The cloudy residue is redissolved in ether, treated with Na2SO4, decanted and evaporated as before. The bright yellow liquid is redissolved in ether and treated with activated carbon (DARCO G-60), then filtered (colorless), and reevaporated to yield the above named product.

reactant | nitric acid | 34 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,2-bis(chlorodifluoromethyl)-4-hydroxymethyl-1,3-dioxolane | 14.8 grams | ClC(C1(OCC(O1)CO)C(F)(F)Cl)(F)F | C6H6Cl2F4O3
solvent | water | O | H2O
product | 2,2-Bis(Chlorodifluoromethyl)-1,3-Dioxolan-4-ylmethyl Nitrate | [N+](=O)(OCC1OC(OC1)(C(F)(F)Cl)C(F)(F)Cl)[O-] | C6H5Cl2F4NO5
